US09315491B2
4-(5-Methylsulfanyl-4,6-di-morpholin-4-yl-pyrimidin-2-yl)-phenylamine
A mixture of 4-(4-chloro-5-methylsulfanyl-6-morpholin-4-yl-pyrimidin-2-yl)-phenylamine (200 mg, 0.594 mmol.), morpholin (103 mg, 1.118 mmol, 2.0 eq), triethylamine (120 mg, 1.118 mmol, 2.0 eq) in dioxane (8 ml) and the mixture was reacted for 16 hrs at 90° C. The reaction mixture was dried and the solvent was removed by evaporation in vacuo. The reaction mixture was partitioned between EA and water. The organic layer was washed with brine, dried over MgSO4, filtered and evaporated in vacuo. The resulting residue was purified using flash chromatography on silica gel (EA), and recrystallized by (Hexane/EtOAc) to give a gray white 106 mg (46.1%).

reactant | 4-(4-chloro-5-methylsulfanyl-6-morpholin-4-yl-pyrimidin-2-yl)-phenylamine | 0.594 mmol, 200 mg | ClC1=NC(=NC(=C1SC)N1CCOCC1)C1=CC=C(C=C1)N | C15H17ClN4OS
reactant | morpholin | 1.118 mmol, 103 mg, 2.0 eq | N1CCOCC1 | C4H9NO
reactant | triethylamine | 1.118 mmol, 120 mg, 2.0 eq | C(C)N(CC)CC | C6H15N
solvent | dioxane | 8 ml | O1CCOCC1 | C4H8O2
product | 4-(5-Methylsulfanyl-4,6-di-morpholin-4-yl-pyrimidin-2-yl)-phenylamine | CSC=1C(=NC(=NC1N1CCOCC1)C1=CC=C(C=C1)N)N1CCOCC1 | C19H25N5O2S
